Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with two syncopal episodes in past 2 days both during bowel
movements both with immediate return to baseline. The first
episode on ___ was witnessed by family member who reports no 
head
strike, that it occurred after pt stood up for the toilet, and
that pt subsequently had a transient episode of n/v that
resolved. Pt left the ED AMA during workup. On day of admission,
daughter was helping pt to bathroom, witnessed syncope by
daughter, again no head strike, lowered to chair.  
 
On admission, pt was A&Ox3 fsbs 88. Head and neck and C-spine CT
scans as well as chest and abdominal xrays negative for acute
fractures or bleeding. Pt denies any chest pain, shortness of
breath or palpitations. Pt endorses generalized weakness for
multiple months. Difficulty ambulating, reports overall 
weakness.
Denies any recent changes in medication. Daughter thinks needs
more resources, lives by herself.  
 
TTE in the ED demonstrated moderate to severe aortic stenosis,
raising concerns for left ventricular outflow tract obstruction.
Pt admitted to cardiology for further syncope workup.  
 
In the ED:  
-Initial vitals: 96.6, 106/66, 77, 16, 98% RA  
-EKG: Ectopic atrial rhythm, R-wave progression with early
transition, LVH with secondary repolarization abnormality.
Compared to prior of ___ 18:07, ectopic atrial rhythm 
has
replaced sinus rhythm.  
-Labs/studies notable for: Lactate of 1.4, trop <0.01, WBC 7.7,
hgb 11.8, BUN 18, Cr 1.2, and normal coags. Ucx ntd. UA yellow
hazy 30 protein, no glu, trace ket, 1 RBC, 2 WBC, no bact, 32
hyCasts, and many muscous.  
-Patient was given: IVF NS 500mL, Dilt 30mg x3, Omeprazole,
Citalopram 10mg, IVF LR 500mL  
 
On arrival to the floor, with the help of  phone translator, the
patient denied any acute complaints aside from generalized
weakness.  She denied chest pain/palpitations/fever/chills.  She
reported that she is here because she fell at home, however she
was unable to provide any significant details regarding the 
fall.

She reports that she moves around the house well, without
significant dyspnea on exertion. 

Patient denies fever/chills/chest pain/shortness of
breath/palpitations.  No abdominal
pain/dysuria/diarrhea/constipation.  No lower extremity edema. 
No orthopnea/PND.

I called the patient's daughter as well, who told me that the
patient is passed out twice while straining to have bowel
movements.
 
 REVIEW OF SYSTEMS:  
 Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.  
 
 On further review of systems, denies any prior history of
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding
at the time of surgery, myalgias, joint pains, cough, 
hemoptysis,
black stools or red stools. Denies exertional buttock or calf
pain. Denies recent fevers, chills or rigors. All of the other
review of systems were negative.  
 
Past Medical History:
PAST MEDICAL HISTORY  
#ERROR!
 1. CARDIAC RISK FACTORS  
 - Diabetes  

 2. CARDIAC HISTORY  
-HFpEF

 3. OTHER PAST MEDICAL HISTORY  
GERD 
HTN 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
#ERROR!
VITALS:  ___ Temp: 97.3 PO BP: 164/84 R Lying HR: 83
RR: 18 O2 sat: 97% O2 delivery: 1L 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa.
NECK: Supple with JVP of 8 cm 
CARDIAC: Regular rate rhythm, no rub/gallops.  ___ murmur 
located
at right upper sternal border.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  Warm, well perfused
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAMINATION:  
#ERROR!

___ 0733 Temp: 97.8 PO BP: 152/71 R Lying HR: 53 RR: 16 O2
sat: 91% O2 delivery: RA 
GENERAL: Well-developed,  chronic ill appearing. NAD. Mood,
affect appropriate,
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa.
CARDIAC: Regular rate rhythm, no rub/gallops.  ___ systolic
crescendo decrescendo murmur located at right upper sternal
border.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  Warm, well perfused
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 
Pertinent Results:
___ 03:32PM BLOOD WBC-7.7 RBC-4.45 Hgb-11.8 Hct-39.5 MCV-89 
MCH-26.5 MCHC-29.9* RDW-15.3 RDWSD-49.7* Plt ___
___ 07:14AM BLOOD WBC-5.1 RBC-3.49* Hgb-9.5* Hct-31.9* 
MCV-91 MCH-27.2 MCHC-29.8* RDW-15.4 RDWSD-50.7* Plt ___
___ 03:21PM BLOOD ___ PTT-27.4 ___
___ 07:14AM BLOOD ___ PTT-48.1* ___
___ 03:21PM BLOOD Glucose-98 UreaN-18 Creat-1.2* Na-146 
K-4.3 Cl-104 HCO3-26 AnGap-16
___ 07:14AM BLOOD Glucose-89 UreaN-15 Creat-1.0 Na-146 
K-4.7 Cl-110* HCO3-23 AnGap-13
___ 03:21PM BLOOD ALT-11 AST-17 AlkPhos-105 TotBili-0.3
___ 07:14AM BLOOD ALT-9 AST-15 LD(LDH)-234 AlkPhos-80 
TotBili-0.2
___ 03:21PM BLOOD Lipase-14
___ 03:21PM BLOOD cTropnT-<0.01
___ 07:14AM BLOOD Albumin-3.0* Calcium-8.7 Phos-2.6* Mg-2.1
___ 03:39PM BLOOD Lactate-1.4

___ Supine abdominal radiograph

FINDINGS: 
 
There are no abnormally dilated loops of large or small bowel.
Supine assessment limits detection for free air; there is no 
gross
pneumoperitoneum. Osseous structures are multilevel degenerate 
changes in the
lumbosacral spine.  There are no unexplained soft tissue 
calcifications or
radiopaque foreign bodies.
 
IMPRESSION: 
 
Normal bowel gas pattern.  No significant stool burden 
appreciated.

___ CXR:

FINDINGS: 
 
There are no abnormally dilated loops of large or small bowel.
Supine assessment limits detection for free air; there is no 
gross
pneumoperitoneum. Osseous structures are multilevel degenerate 
changes in the
lumbosacral spine.  There are no unexplained soft tissue 
calcifications or
radiopaque foreign bodies.
 
IMPRESSION: 
 
Normal bowel gas pattern.  No significant stool burden 
appreciated.

___ CT C-spine w/o contrast
FINDINGS: 
 
Bones appear diffusely demineralized limiting detection of 
subtle nondisplaced
fractures.  Scoliosis and thoracic kyphosis, unchanged.  No 
acute fracture or
traumatic alignment abnormality.  Moderate multilevel degenerate 
changes with
intervertebral disc space narrowing and osteophyte formation, 
most prominent
at C3-C4, C4-C5.  There is no critical canal or foraminal 
narrowing.There is
no prevertebral edema.
 
Redemonstration of a calcified right thyroid nodule, unchanged 
in appearance
compared to prior CT dated ___.  Thyroid and 
included lung
apices are unremarkable.
 
IMPRESSION:
 
 
1. No acute fracture or traumatic malalignment.
2. Multilevel degenerative changes.

___ CT Head without contrast
FINDINGS: 
 
There is no evidence of acute large territory 
infarction,intracranial
hemorrhage,edema,or mass.  There is prominence of the ventricles 
and sulci
suggestive of involutional changes.  Periventricular and 
subcortical white
matter hypodensities are nonspecific but compatible with chronic 
small vessel
ischemia.
 
There is no evidence of fracture.  The visualized portion of the 
paranasal
sinuses, mastoid air cells, and middle ear cavitiesare 
essentially clear.  The
visualized portion of the orbits are unremarkable.
 
IMPRESSION:
 
 
1. No acute intracranial abnormality.
2. Involutional and chronic small vessel disease changes.

___ TTE:
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color
Doppler. The right atrial pressure could not be estimated. There 
is mild symmetric left ventricular
hypertrophy with a normal cavity size. There is suboptimal image 
quality to assess regional left
ventricular function. Overall left ventricular systolic function 
is hyperdynamic. The visually estimated
left ventricular ejection fraction is >=75%. There is a mid 
cavitary gradient (peak 40 mmHg) with
inability to assess for change due to inability to perform a 
Valsalva. No ventricular septal defect is seen.
Tissue Doppler suggests an increased left ventricular filling 
pressure (PCWP greater than 18 mmHg).
Normal right ventricular cavity size with low normal free wall 
motion. There is abnormal septal motion
c/w conduction abnormality/paced rhythm. The aortic sinus 
diameter is normal for gender. The aortic
arch diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets are
moderately thickened. There is moderate to severe aortic valve 
stenosis (valve area 1.0-1.5 cm2). There
is a centrally directed jet of mild [1+] aortic regurgitation. 
The mitral valve leaflets are mildly thickened
with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are
normal. The tricuspid valve leaflets appear structurally normal. 
There is tricuspid regurgitation present
(could not be qualified). The pulmonary artery systolic pressure 
could not be estimated. There is no
pericardial effusion.
IMPRESSION: Vigorous left ventricular systolic function with 
resultant mid-cavitary LVOT
gradient. Moderate to severe aortic stenosis with mild aortic 
regurgitation. Indeterminate
pulmonary pressure. Possibility of small IVC with compression, 
consistent with possible
hypovolemia given small cavity size and hyperdynamic function, 
but inadequately assessed.

Compared with the prior TTE (images reviewed) of ___, the 
severity of aortic stenosis has
increased. Left ventricular systolic function now hyperdynamic 
(LVEF previously 60%). Moderate
pulmonary hypertension noted previously (unassessed on today's 
exam).

   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
___ with two syncopal episodes in past 2 days both during bowel 
movements both with immediate return to baseline, found to have 
mod-severe AS and LVOTO here for syncope likely due vasovagal 
syncope.

TRANSITIONAL ISSUES:
[] Discharged on metoprolol and diltiazem, needs optimization of 
this therapy given LVOT
[] Patient should have liberal bowel regiment in setting of 
syncope being possibly from vasovagal secondary to straining
[] patient with history of atrial fibrillation, please discuss 
risks and benefits of anticoagulation as an outpatient
[] continue goals of care discussions and consideration of 
transition to hospice
[] monitor blood pressures and adjust medications as needed
[] Furosemide 20 daily was stopped in setting of LVOT 
obstruction and desire to not decrease preload. More then likely 
this should not be continued but but can rediscuss as 
outpatient.

Active issues:
#ERROR!
#Syncope:
Patient with syncopal episodes in setting of having bowel 
movements seems most consistent with vasovagal syncope. She does 
have LVOT obstruction and aortic stenosis so could be 
contributing so her bowel regimen was increased and she was 
started on metoprolol. She was monitored on telemetry with no 
events. Patient and her daughter wanted to defer a long term 
cardiac monitor in setting of goals of care.

#goals of care:
In discussion with the patient and her daughter, the patient 
does not want extensive measures. They described that the 
patient never wanted invasive measures and that she wants to be 
DNR/DNI. On day of discharge, daughter expressed that patient 
may be interested in hospice at her facility, which is an option 
for her. They will continue to explore these wishes in the 
coming weeks, especially if she has continued syncope and needs 
admissions to the hospital.

#LVOT obstruction:
#Aortic stenosis:
This may represent a possible paradoxical low flow low gradient 
aortic stenosis in the setting of hypertrophy and hyperdynamic 
left ventricle. Either LVOT obstruction or AS may have 
contributed to syncope episode. Structural consult was deferred 
as concern that patients LVOT obstruction would be worsened by 
decreased afterload after new valve. Given IVF on admission in 
setting of LVOT. Discharged on metoprolol and diltiazem.

#Hx of Afib
Unclear specific history of afib but based on chart review seems 
that in ___ she had new onset episode that converted to sinus 
with dilt. Unclear why no anticoagulation but possibly due to 
being left as a transitional issue that was not addressed.

Chronic issues:
#ERROR!
#GERD
In hospital switched pantoprazole 20 mg for omeprazole 10 mg 
which is not
carried by pharmacy. D/c on home med.

#Heart failure with preserved ejection fraction, not in
exacerbation
Patient appears euvolemic on exam. She was on furosemide at home 
which was held in the setting of poor po intake and wanting to 
increase preload given LVOT obstruction.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Omeprazole 10 mg PO DAILY 
2. Betamethasone Dipro 0.05% Oint 1 Appl TP QID 
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
4. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
5. Procto-Med HC (hydrocorTISone) 2.5 % topical DAILY:PRN 
6. Furosemide 20 mg PO DAILY 
7. Diltiazem Extended-Release 180 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Fleet Enema (Mineral Oil) ___AILY:PRN constipation  

2.  Metoprolol Succinate XL 12.5 mg PO DAILY  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Senna 8.6 mg PO BID  
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath   
6.  Aspirin 81 mg PO DAILY  
7.  Betamethasone Dipro 0.05% Oint 1 Appl TP QID  
8.  Diltiazem Extended-Release 180 mg PO DAILY  
9.  Omeprazole 10 mg PO DAILY  
10.  Procto-Med HC (hydrocorTISone) 2.5 % topical DAILY:PRN  
11.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Likely vasovagal syncope

Secondary Diagnses:
LVOT obstruction
Aortic Stenosis 
Atrial Fibrillation
Gastroesophageal Reflux Disorder
Heart Failure with preserved Ejection Fraction
Hypertension  

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
#ERROR!
DISCHARGE WORKSHEET TEMPLATE  
#ERROR!
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___ ___! 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  

WHY WAS I IN THE HOSPITAL?  
#ERROR!
- You were admitted because of episodes of passing out 

WHAT HAPPENED IN THE HOSPITAL?  
#ERROR!
- Your reason for these episodes was evaluated which seemed to 
be an exaggerated response from your body's normal response 
(increased vagal tone). 
- Your heart was monitored
- You were given medications and fluids

WHAT SHOULD I DO WHEN I GO HOME?  
#ERROR!
- Be sure to take all your medications and attend all of your 
appointments listed below. 

 
Followup Instructions:
___